### PR TITLE
define canonical automata, based on myhill-nerode congruence

### PR DESCRIPTION
**Pull request by matzemathics**
Note that the construction needs a decision procedure for the Language in question, in order to decide, which states are final.

### CODE REVIEW

File: FormalSystems/Chomsky/Regular/Nerode.lean [hunk 1]
```diff
@@ -24,9 +54,70 @@ theorem Nerode.not_right_congruent (L : Language α) (u v : Word α) (pre: u ≠
...
+  apply q.recOn (motive := fun q => Decidable (FinalClass L q))
+  swap
+  intro w
+  unfold FinalClass
+  have : (Quotient.lift (· ∈ L)
+    (fun a b => by apply MyhillNerodeRelation.mem_language')
+    (Quotient.mk (myhillNerodeEquivalence L) w)) = (w ∈ L) := rfl
+  rw [this]
+  exact proc w
+  simp
```
Comment (monsterkrampe) [inline FormalSystems/Chomsky/Regular/Nerode.lean]: I tend to avoid tactics for definitions (at least the parts that are not propositions); I played around a little bit here and have the following proposal (feel free to ignore):
```suggestion
def final_class_decidable (proc: DecisionProcedure L):
  DecidablePred (FinalClass L) := fun q => 
    q.rec (fun w => match proc w with 
      | isTrue hp => Decidable.isTrue (by apply hp)
      | isFalse hp => Decidable.isFalse (by apply hp)
    ) (by simp)
```

File: FormalSystems/Chomsky/Regular/Nerode.lean [hunk 2]
```diff
@@ -24,9 +54,70 @@ theorem Nerode.not_right_congruent (L : Language α) (u v : Word α) (pre: u ≠
...
+
+def liftPredicateToSubtype (p: α → Prop) (prop: α → Prop):
+  { a : α // prop a } → Prop := p ∘ Subtype.val
+
+def decidable_pred_from_subtype (p: α → Prop) (h: DecidablePred p):
+  ∀prop: α → Prop, @DecidablePred { a: α // prop a } (p ∘ Subtype.val) := by
+  intro _ ⟨x, _⟩
+  simp
+  exact h x
```
Comment (monsterkrampe) [inline FormalSystems/Chomsky/Regular/Nerode.lean]: Again a more explicit definition; feel free to keep what you like better :)
```suggestion
def decidable_pred_from_subtype (p: α → Prop) (h: DecidablePred p):
  ∀ prop: α → Prop, DecidablePred (fun x : { a: α // prop a } => (p ∘ Subtype.val) x) := 
  fun prop x => match h x with 
  | isTrue _ => Decidable.isTrue (by assumption)
  | isFalse _ => Decidable.isFalse (by assumption)
```

**Review by monsterkrampe — APPROVED** [review]
Added two proposals for alternative definitions but can also be merged as is :)
Just let me know!

File: FormalSystems/Chomsky/Regular/Nerode.lean (hunk 1 above)
Comment (matzemathics) [reply FormalSystems/Chomsky/Regular/Nerode.lean]: funnily enough I had already done something similar, but forgot to update the PR

Comment (monsterkrampe) [reply FormalSystems/Chomsky/Regular/Nerode.lean]: Ah nice :)

File: FormalSystems/Chomsky/Regular/Nerode.lean [hunk 3]
```diff
@@ -24,9 +54,65 @@ theorem Nerode.not_right_congruent (L : Language α) (u v : Word α) (pre: u ≠
...
+    propext ∘ MyhillNerodeRelation.mem_language
+
+def DecisionProcedure (L: Language α): Type := DecidablePred (· ∈ L)
+
+-- classically, every Language has a decision procedure, so we might choose one
+noncomputable def DecisionProcedure.classical: DecisionProcedure L := fun w =>
+  Classical.choice $
+    match Classical.em (w ∈ L) with
+    | .inl h => Nonempty.intro $ Decidable.isTrue h
+    | .inr h => Nonempty.intro $ Decidable.isFalse h
```
Comment (monsterkrampe) [inline FormalSystems/Chomsky/Regular/Nerode.lean]: It also works to use [`Classical.decPred`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Basic.html#Classical.decPred) directly.
```suggestion
noncomputable def DecisionProcedure.classical: DecisionProcedure L := Classical.decPred (· ∈ L)
```
